US04425154
(a) N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-methyl urea
A suspension of 6.7 g of 2-(1,2-dichlorovinyloxy)phenylsulfonamide in 50 ml of methylene chloride is treated with 1.9 g of methyl isocyanate. 3.3 g of triethylamine are added dropwise to this mixture at a temperature of 20°-25° C. within 10 minutes resulting in a clear solution. The solution is stirred for a further hour and evaporated to dryness. The residue is solved in 5% aqueous sodium carbonate and acidified with a 10% solution of hydrochloric acid yielding 7.8 g of N-[2-(1,2-dichlorovinyloxy)-phenylsulfonyl]-N'-methyl urea, m.p. 225°-226° C.

reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonamide | 6.7 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
reactant | methyl isocyanate | 1.9 g | CN=C=O | C2H3NO
reactant | triethylamine | 3.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-methyl urea | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC | C10H10Cl2N2O4S
